US05104888
5-[2-(6-Hydroxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)pyridin-5-ylmethyl]thiazolidine -2,4-dione
The procedure described in Example 3 was repeated, but using 3.8 g of ethyl 3-[2-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)pyridin-5-yl]-2-chloropropionate (prepared as described in Preparation 38), 0.77 g of thiourea, 5.0 ml of sulfolane, 4.5 ml of ethylene glycol monomethyl ether, 1.5 ml of concentrated hydrochloric acid and 4.5 ml of water, to give the title compound, softening at 87°-94° C.

reactant | ethyl 3-[2-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)pyridin-5-yl]-2-chloropropionate | 3.8 g | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=NC=C(C=C1)CC(C(=O)OCC)Cl)C | C26H32ClNO6
reactant | thiourea | 0.77 g | NC(=S)N | CH4N2S
reactant | sulfolane | 5.0 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | water | 4.5 ml | O | H2O
solvent | ethylene glycol monomethyl ether | 4.5 ml | COCCO | C3H8O2
product | 5-[2-(6-Hydroxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)pyridin-5-ylmethyl]thiazolidine -2,4-dione | OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=NC=C(C=C1)CC1C(NC(S1)=O)=O)C | C23H26N2O5S
